US04634705
1-Fluoro-3-methoxy-4-[(2-propenyl)oxy]benzene
A solution of 4-fluoro-2-methoxyphenol (27.0 g) in DMF (50 ml) was added dropwise to a mixture of 60% NaH (7.0 g) in DMF (250 ml). After stirring the reaction for 1 hour, allylbromide (21.0 ml) was added and stirring was continued for 1 hour at room temperature. The reaction was poured onto ice/water and extracted with ethyl acetate. The organic layer was separated, dried and evaporated to afford the desired compound.

reactant | 4-fluoro-2-methoxyphenol | 27.0 g | FC1=CC(=C(C=C1)O)OC | C7H7FO2
reactant | NaH | 7.0 g | [H-].[Na+]
reactant | allylbromide | 21.0 ml | C(C=C)Br | C3H5Br
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-Fluoro-3-methoxy-4-[(2-propenyl)oxy]benzene | FC1=CC(=C(C=C1)OCC=C)OC | C10H11FO2
